US07825135B2
tert-Butyl 4-cyano-4-[3-(methoxymethoxy)pyridin-2-yl]piperidine-1-carboxylate:
2-Chloro-3-methoxymethoxy-pyridine (Tetrahedron 58 (2002), 309-314) (2 g, 11.5 mmol) and tert-butyl 4-cyanopiperidine-1-carboxylate (1.6 g, 7.7 mmol) were reacted in the presence of potassium hexamethyldisilazide (9.2 mmol) using the method in example 8-1 to afford the desired product: tert-Butyl 4-cyano-4-[3-methoxymethoxy)pyridin-2-yl]piperidine-1-carboxylate: 1H NMR δ (ppm)(CDCl3): 8.21 (1 H, d, J=4.6 Hz), 7.53 (1 H, d, J=8.3 Hz), 7.27-7.23 (1 H, m), 5.31 (2 H, s), 4.20 (2 H, br s), 3.55 (3 H, s), 3.28 (2 H, br s), 2.35 (2 H, s), 2.10 (2 H, br s), 1.47 (9 H, s).

reactant | 2-Chloro-3-methoxymethoxy-pyridine | 11.5 mmol, 2 g | ClC1=NC=CC=C1OCOC | C7H8ClNO2
reactant | tert-butyl 4-cyanopiperidine-1-carboxylate | 7.7 mmol, 1.6 g | C(#N)C1CCN(CC1)C(=O)OC(C)(C)C | C11H18N2O2
reactant | potassium hexamethyldisilazide | 9.2 mmol | C[Si]([N-][Si](C)(C)C)(C)C.[K+]
product | tert-Butyl 4-cyano-4-[3-(methoxymethoxy)pyridin-2-yl]piperidine-1-carboxylate | C(#N)C1(CCN(CC1)C(=O)OC(C)(C)C)C1=NC=CC=C1OCOC | C18H25N3O4
